US20010007903A1
Diphenylmethyl 7β-formamido-3-[(pyrazol-4-yl)methylthio]-3-cephem-4-carboxylate (2.96 g) was dissolved in methanol (30 ml) and concentrated hydrochloric acid (2.2 ml) was added thereto at the room temperature. Stirring was continued for 3 hours, then solvent was evaporated. The residue was diluted with a mixture of water and the ethyl acetate. The aqueous layer was adjusted to pH 6.5 with 30% aqueous potassium carbonate. The organic layer was separated, washed with water and brine succesively, and dried over magnesium sulfate. Solvent was evaporated to afford diphenylmethyl 7β-amino-3-[(pyrazol-4-yl)methylthio]-3-cephem-4-carboxylate (1.50 g).

reactant | Diphenylmethyl 7β-formamido-3-[(pyrazol-4-yl)methylthio]-3-cephem-4-carboxylate | 2.96 g | C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)SCC=2C=NNC2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C25H22N4O4S2
reactant | hydrochloric acid | 2.2 ml | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
product | diphenylmethyl 7β-amino-3-[(pyrazol-4-yl)methylthio]-3-cephem-4-carboxylate | 1.50 g | N[C@H]1[C@@H]2N(C(=C(CS2)SCC=2C=NNC2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C24H22N4O3S2
